US06235747B1
6-{4-[2-(4-cyclohexyl-piperazin-1-yl)-ethyl]-phenyl}-pyridin-2-ylamine
Prepared as in Example 112, using N-cyclohexylpiperazine coupling with 2-(2,5-dimethylpyrrolyl)-6-(4-(carboxymethyl)phenyl)-pyridine in 100% yield followed by reduction using borane methyl sulfide in refluxing tetrahydrofuran in 97% yield, then deprotection using hydroxylamine hydrochloride in refluxing ethanol in 98% yield, as the hydrochloride salt.

reactant | N-cyclohexylpiperazine | C1(CCCCC1)N1CCNCC1 | C10H20N2
reactant | 2-(2,5-dimethylpyrrolyl)-6-(4-(carboxymethyl)phenyl)-pyridine | CC=1NC(=CC1C1=NC(=CC=C1)C1=CC=C(C=C1)CC(=O)O)C | C19H18N2O2
reactant | borane methyl sulfide | CSC.B
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | CDCl3 MeOD | [2H]C(Cl)(Cl)Cl.CO[2H]
solvent | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-{4-[2-(4-cyclohexyl-piperazin-1-yl)-ethyl]-phenyl}-pyridin-2-ylamine | 100% yield | C1(CCCCC1)N1CCN(CC1)CCC1=CC=C(C=C1)C1=CC=CC(=N1)N | C23H32N4
